US08975418B2
To a jacketed reactor, N,N-dimethylacetamide (DMAc) (120 mL) and sodium ethylate (NaOEt) powder (12.1 g) is charged at 20° C. Diethylmalonate (28.8 g) is added dropwise into the above mixture while keeping internal temperature at around 10° C. After finishing addition, warm up the mixture to 20° C., and continue to stir for another 10 minutes. Then, 2-chloro-5-iodonitrobenzene (17 g) is added in one portion, and heat the mixture to 78° C. and stir for usually at least 2.5 hours until process monitor shows almost complete conversion. The resulting mixture is cooled down to 20° C., and it is quenched by 2 N cold aq. HCl solution (180 mL). The bottom yellow oil was transferred to a jacket reactor with ethanol (92 mL) in it. Then, to the above solution the first portion of SnCl2.2H2O (30 g) powder is added, and the resulting mixture is heated to 70° C. and stirred for 1 hour. The second portion of SnCl2.2H2O (30 g) is added, the mixture is stirred usually at least 0.5 hour until process monitor shows almost complete conversion. Then, heat the resulting mixture to 80° C. and add 36% aq. HCl solution (60 mL) during 0.5 hour. The mixture is stirred for at least 2.5 hours until process monitor shows almost complete conversion. Then, to the mixture water (90 mL) is added and the resulting mixture is cooled down to 20° C. Collect the solid by filtration and wash the solid with water (250 mL) to afford the crude 6-iodo-2-oxindole. Then, it is purified by crystallization with acetic acid (HOAc) (110 mL), and followed by washing with 3 N aq. HCl solution (80 mL) to afford the 6-iodo-2-oxindole in 53% yield and 99% HPLC purity (Rt=7.45 min).

reactant | sodium ethylate | 12.1 g | CC[O-].[Na+]
reactant | Diethylmalonate | 28.8 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 2-chloro-5-iodonitrobenzene | 17 g | ClC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3ClINO2
solvent | N,N-dimethylacetamide | 120 mL | CN(C(C)=O)C | C4H9NO
product | 6-iodo-2-oxindole | 53% yield | IC1=CC=C2CC(NC2=C1)=O | C8H6INO
